US07034015B2
Preparation 29: 2-(2-Bromophenyl)ethyl 4-methylbenzenesulfonate (Compound 429)
The reaction and work up was conducted as described in the preparation of compound 163 using 2-bromophenethyl alcohol (5 g, 25 mmol) in pyridine (12 mL) and p-toluenesulfonyl chloride (5.2 g, 27.5 mmol). The crude product was purified by flash chromatography eluting with EtOAc/petroleum ether 1:4. This afforded the title compound as a colourless crystalline compound.

reactant | 2-bromophenethyl alcohol | 25 mmol, 5 g | BrC1=C(CCO)C=CC=C1 | C8H9BrO
reactant | p-toluenesulfonyl chloride | 27.5 mmol, 5.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-Bromophenyl)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=C(C=CC=C1)Br | C15H15BrO3S
